US05868959
Benzylphosphonic acid was prepared as follows. 200.40 g (878 mmoles) of diethyl benzylphosphonate was combined with 350 ml of distilled water and 350 ml of concentrated (~12 molar) hydrochloric acid. The resulting suspension was heated to reflux under nitrogen for 20 hours, whereupon a clear colorless solution was obtained. From this solution, 130 ml of aqueous distillate was removed. The residue was allowed to cool, forming a thick white slurry which was cooled in situ with an ice bath. The slurry was then filtered dry under vacuum, but not washed due to its fairly high solubility in water. The wet solid was then dried in a vacuum at 120° C. overnight. 123.37 g (82% yield) was obtained.

reactant | diethyl benzylphosphonate | 878 mmoles, 200.40 g | C(C1=CC=CC=C1)P(OCC)(OCC)=O | C11H17O3P
solvent | water | 350 ml | O | H2O
product | Benzylphosphonic acid | 82% yield | C(C1=CC=CC=C1)P(O)(O)=O | C7H9O3P
